US08563552B2
Synthesis of 1-(pyrimidin-2-yl)-3,5-dimethylpyrazole (Compound 4)
NaH (0.594 g, 14.84 mmol) was suspended in THF (10 mL), and 3,5-dimethylpyrazole (1.091 g, 11.35 mmol) was slowly added and stirred for one hour at room temperature. 2-Chloropyrimidine (1 g, 8.73 mmol) was slowly added to the mixture and refluxed for three hours. Completion of the reaction was confirmed by TLC, and then water (5 mL) was added to the mixture. The solvent was distilled off and the residue was extracted with ethyl acetate twice. The organic phase was washed with saturated brine and dried over magnesium sulfate. The solvent was then distilled off and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2→ethyl acetate) to give 1.05 g of the title compound (yield 69%).

reactant | NaH | 14.84 mmol, 0.594 g | [H-].[Na+]
reactant | 3,5-dimethylpyrazole | 11.35 mmol, 1.091 g | CC1=NNC(=C1)C | C5H8N2
reactant | 2-Chloropyrimidine | 8.73 mmol, 1 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(pyrimidin-2-yl)-3,5-dimethylpyrazole | 1.05 g, yield 69% | N1=C(N=CC=C1)N1N=C(C=C1C)C | C9H10N4
